US05789408
2-Chloro-3-pyridinecarboxylic Acid 1-Oxide Ethyl Ester
A solution of m-chloroperbenzoic acid (mCPBA), prepared by suspending 41.4 g (0.021 mol) of 50% mCPBA in 100 ml of dichloromethane, adding a drying agent (sodium sulfate), and removing the solids by filtration, was added dropwise to a solution of 22.2 g (0.12 mol) of 2-chloro-3-pyridinecarboxylic acid ethyl ester (Aldrich, 1001 West Saint Paul Avenue, Milwaukee, Wis. 53233 USA) in 100 ml of dichloromethane. After stirring the mixture for 36 hours, the precipitate was removed by filtration and the filtrate was evaporated. The residue was dissolved in ethyl acetate, washed successively with saturated aqueous sodium bisulfite solution (1×100 ml) and sodium bicarbonate solution (2×100 ml), dried (Na2SO4), and evaporated. The residue was purified by flash chromatography with an ethyl acetate-hexane eluant (5:95 to 100:0) to afford 8.1 g (33%) of the title compound as an oil. 1H NMR (CDCl3): δ 1.35 (3H, t, J=7), 4.36 (2H, q, J=7), 7.23-7.29 (1H, m), 7.61 (1H, d, J=7), 8.41 (1H, d, J=7).

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | mCPBA | 0.021 mol, 41.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-chloro-3-pyridinecarboxylic acid ethyl ester | 0.12 mol, 22.2 g | C(C)OC(=O)C=1C(=NC=CC1)Cl | C8H8ClNO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Chloro-3-pyridinecarboxylic Acid 1-Oxide Ethyl Ester | 8.1 g, 33% | C(C)OC(=O)C=1C(=[N+](C=CC1)[O-])Cl | C8H8ClNO3
